US09278915B2
Intermediate 154: Ethyl 3-(6-{[4-(2-oxo-2-phenylethoxy)benzyl]oxy}pyridin-3-yl)propanoate
A solution of ethyl (2E)-3-(6-{[4-(2-oxo-2-phenylethoxy)benzyl]oxy}pyridin-3-yl)prop-2-enoate (0.13 g, 0.31 mmol) in ethyl acetate ethanol mixture was degassed well and added palladium carbon (10 mg), and stirred under hydrogen bladder for 3 hrs. Reaction mass was filtered through celite pad and concentrated to a colourless oil (0.12 g, Yield: 95%); MS (ESI, 120 eV): m/z=420 (M+H)+.

reactant | ethyl (2E)-3-(6-{[4-(2-oxo-2-phenylethoxy)benzyl]oxy}pyridin-3-yl)prop-2-enoate | 0.31 mmol, 0.13 g | O=C(COC1=CC=C(COC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1)C1=CC=CC=C1 | C25H23NO5
solvent | ethyl acetate ethanol | C(C)O.C(C)(=O)OCC
catalyst | palladium carbon | 10 mg | [C].[Pd]
product | Ethyl 3-(6-{[4-(2-oxo-2-phenylethoxy)benzyl]oxy}pyridin-3-yl)propanoate | 0.12 g, Yield: 95% | O=C(COC1=CC=C(COC2=CC=C(C=N2)CCC(=O)OCC)C=C1)C1=CC=CC=C1 | C25H25NO5
